US07078428B2
N-[2-(2-Isobutyl-4-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)-acetyl]-guanidine is prepared as described in Example 1, starting with 0.68 of potassium tert-butoxide, 0.58 g of guanidinium chloride and 0.36 g of ethyl (4-methyl-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours, followed by addition of 20 cm3 of water. The aqueous phase is extracted with 3 times 100 cm3 of ethyl acetate. The organic extracts are combined and then concentrated to dryness under reduced pressure (0.5 kPa) at a temperature in the region of 40° C. The residue is taken up in dichloromethane and then concentrated again under the same conditions. The residue is taken up in water, triturated and filtered, and then taken up in dichloromethane, triturated and filtered. The solid is then dried in a desiccator. 0.21 g of N-[2-(2-Isobutyl-4-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)-acetyl]-guanidine is thus obtained in the form of a white powder melting at 270-272° C. (decomposition). 1NMR (300 MHz, d6-(CD3)2SO, δ in ppm): 0.76 (d, J=7 Hz: 3H); 0.91 (d, J=7 Hz: 3H); 2.03 (mt: 1H); 2.42 (dd, J=15.5 and 6.5 Hz: 1H); 2.60 (dd, J=15.5 and 6.5 Hz: 1H); 2.62 (s: 3H); 3.00 (dd, J=14 and 5.5 Hz: 1H); 3.56 (dd, J=14 and 10 Hz: 1H); 4.98 (t, J=6.5 Hz: 1H); from 6.40 to 7.10 (broad multiplet: 2H); 7.21 (broad d, J=7.5 Hz: 1H); 7.36 (broad d, J=7.5 Hz: 1H); 7.42 (t, J=7.5 Hz: 1H); from 7.50 to 8.30 (broad multiplet: 2H).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 0.58 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (4-methyl-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 0.36 g | CC1=C2C(N(C(C2=CC=C1)CC(=O)OCC)CC(C)C)=O | C17H23NO3
solvent | water | 20 cm3 | O | H2O
product | N-[2-(2-Isobutyl-4-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)-acetyl]-guanidine | 0.21 g | C(C(C)C)N1C(C2=CC=CC(=C2C1=O)C)CC(=O)NC(=N)N | C16H22N4O2
